US08877779B2
To a solution of ethyl (1,2,3,4-tetrahydronaphthalen-1-yl)acetate (31.0 g) in ethanol (100 ml) was added sodium hydroxide (4N, 100 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated to a half volume under reduced pressure, and the residue was washed with ethyl acetate. The aqueous layer was acidified with dilute hydrochloric acid, and extracted with chloroform. The obtained organic layer was washed with water and saturated brine, dried over magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure to give (1,2,3,4-tetrahydronaphthalen-1-yl)acetic acid.

reactant | ethyl (1,2,3,4-tetrahydronaphthalen-1-yl)acetate | 31.0 g | C1(CCCC2=CC=CC=C12)CC(=O)OCC | C14H18O2
reactant | sodium hydroxide | 4N, 100 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (1,2,3,4-tetrahydronaphthalen-1-yl)acetic acid | C1(CCCC2=CC=CC=C12)CC(=O)O | C12H14O2
